US04760163
using ethyl 2-chloro-5-{3-[2-(ethoxycarbonyl)vinyl]ureido}-benzoate with sodium ethylate in ethanol there is obtained ethyl 2-chloro-5-[3,6-dihydro-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate, m.p. 170°-172° C.,

reactant | ethyl 2-chloro-5-{3-[2-(ethoxycarbonyl)vinyl]ureido}-benzoate | ClC1=C(C(=O)OCC)C=C(C=C1)NC(=O)NC=CC(=O)OCC | C15H17ClN2O5
reactant | sodium ethylate | CC[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | ethyl 2-chloro-5-[3,6-dihydro-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate | ClC1=C(C(=O)OCC)C=C(C=C1)N1C(NC=CC1=O)=O | C13H11ClN2O4
